US07709483B2
(c) 3-Fluoro-2-methyl-6-nitroaniline
2-Chloro-N-(3-fluoro-2-methyl-6-nitrophenyl)acetamide (prepared from 47.2 g of 2-chloro-N-(3-fluoro-2-methylphenyl)acetamide, ca. 234 mmol) was suspended in water (220 ml) then treated with aqueous sodium hydroxide solution (12.5M, 110 ml, 1.37 mol). Tetrahydrofuran (110 ml) was added, then the mixture was heated to reflux for 5 hours, then evaporated (removing most of the tetrahydrofuran). The yellow solid was filtered off and washed with water until washing were non-alkaline. Drying in vacuo afforded a yellow solid (32.3 g, 81% over 2 steps) containing ˜13% isomer.

reactant | 2-Chloro-N-(3-fluoro-2-methyl-6-nitrophenyl)acetamide | ca. 234 mmol, 47.2 g | ClCC(=O)NC1=C(C(=CC=C1[N+](=O)[O-])F)C | C9H8ClFN2O3
reactant | sodium hydroxide | 1.37 mol, 12.5M, 110 ml | [OH-].[Na+]
reactant | Tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | water | 220 ml | O | H2O
product | 3-Fluoro-2-methyl-6-nitroaniline | FC=1C(=C(N)C(=CC1)[N+](=O)[O-])C | C7H7FN2O2
